US07576218B2
A sample of crude 4-(4-chloro-phenyl)-piperidine-4-carboxylic acid hydrochloride (5 mmol, 1 equiv) and 15 g of K2CO3 (113 mmol, 22.6 equiv) was diluted in 50 mL H2O. To the resultant solution was added a solution of 7.4 g BOC20 (34.1 mmol, ˜7 equiv) in 50 mLp-dioxane and the reaction mixture was stirred overnight under N2 atmosphere. The pH was adjusted to ˜4 with 1M HCl and allowed to stir for about 0.5 hour. The reaction mixture was concentrated under vacuum, and the remaining solution was extracted with 2×50 mL EtOAc. The combined organic extracts were dried under vacuum to yield 4-(4-chloro-phenyl)-piperidine-1,4-dicarboxylic acid mono-tert-butyl ester. The crude material was used without further purification for the next step: MS (ES) M−H expected=338.8, found=338.1.

reactant | 4-(4-chloro-phenyl)-piperidine-4-carboxylic acid hydrochloride | 5 mmol, 1 equiv | Cl.ClC1=CC=C(C=C1)C1(CCNCC1)C(=O)O
reactant | K2CO3 | 113 mmol, 15 g, 22.6 equiv | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 1M | Cl | ClH
solvent | H2O | 50 mL | O | H2O
product | 4-(4-chloro-phenyl)-piperidine-1,4-dicarboxylic acid mono-tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)C1=CC=C(C=C1)Cl | C17H22ClNO4
